data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(F)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1cc(F)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(F)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(F)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1cc(F)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(F)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1cc(F)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)cc(F)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(F)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)cc(F)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(F)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(F)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1cc(F)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1cc(F)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(F)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1cc(F)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "Cc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "Cc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(C)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(C)cc1", "products": "Cc1ccc(C(C)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C)cc1C(=O)C1C2CCC1C2", "products": "COc1ccc(C)cc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1ccc(C)cc1[C]([O])C1C2CCC1C2", "products": "COc1ccc(C)cc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1ccc(C)cc1C([O])=CC1C[CH]CC1", "products": "COc1ccc(C)cc1C(O)=CC1C=CCC1"}, {"reactants": "COc1ccc(C)cc1C(O)=CC1C=CCC1", "products": "COc1ccc(C)cc1C(=O)CC1C=CCC1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2CC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(CC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(CC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "CCc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "COC(=[Cr](C#O)(C#O)(C#O)(C#O)C#O)c1n(C)c2ccccc2c1C.CCCC#C", "products": "COC1(c2n(C)c3ccccc3c2C)C(CCC)=C[Cr]1(C#O)(C#O)(C#O)(C#O)C#O"}, {"reactants": "COC1(c2n(C)c3ccccc3c2C)C(CCC)=C[Cr]1(C#O)(C#O)(C#O)(C#O)C#O", "products": "[Cr](=CC(CCC)=C(OC)c1n(C)c2ccccc2c1C)(C#O)(C#O)(C#O)(C#O)C#O"}, {"reactants": "[Cr](=CC(CCC)=C(OC)c1n(C)c2ccccc2c1C)(C#O)(C#O)(C#O)(C#O)C#O", "products": "COC1=C2N(C)c3ccccc3C2(C)[Cr](C#O)(C#O)(C#O)(C#O)(C#O)C=C(CCC)1"}, {"reactants": "COC1=C2N(C)c3ccccc3C2(C)[Cr](C#O)(C#O)(C#O)(C#O)(C#O)C=C(CCC)1", "products": "COC1=C2N(C)c3ccccc3C2(C)C(=O)[Cr](C#O)(C#O)(C#O)(C#O)(C#O)C=C(CCC)1"}, {"reactants": "COC1=C2N(C)c3ccccc3C2(C)C(=O)[Cr](C#O)(C#O)(C#O)(C#O)(C#O)C=C(CCC)1", "products": "O=C1C=C(CCC)C(OC)=C2N(C)c3ccccc3C12C.[Cr](C#O)(C#O)(C#O)(C#O)(C#O)"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1F.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1F"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1F", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1F.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1F", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1F"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1F", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1F"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1F.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1F"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1F", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1F"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1F", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1F"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1F", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1F.[H+]"}]}
